US07732477B2
N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-5-amino-1-benzothiophene-2-carboxamide dihydrochloride
385.0 mg (1.05 mmol) of N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-5-nitro-1-benzothio-phene-2-carboxamide hydrochloride are suspended in 10 ml of a 1:1 mixture of acetic acid and water. 300.0 mg (4.59 mmol) of zinc are added, and the mixture is then stirred at RT for 1 h. The reaction mixture is filtered through kieselguhr, and the filter cake is washed with methanol. The filtrate is concentrated under reduced pressure and the residue is purified by preparative HPLC. The product fraction is dissolved in 4M HCl in dioxane, concentrated under reduced pressure and recrystallized from acetonitrile. 233 mg (59.5% of theory) of the title compound are obtained.

reactant | N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-5-nitro-1-benzothio-phene-2-carboxamide hydrochloride | 1.05 mmol, 385.0 mg | Cl.N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC1=C(C2)C=C(C=C1)[N+](=O)[O-]
reactant | acetic acid | C(C)(=O)O | C2H4O2
catalyst | zinc | 4.59 mmol, 300.0 mg | [Zn] | Zn
solvent | water | O | H2O
product | N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-5-amino-1-benzothiophene-2-carboxamide dihydrochloride | Cl.Cl.N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC1=C(C2)C=C(C=C1)N | InChI=1S/C16H19N3OS.2ClH/c17-12-1-2-14-11(7-12)8-15(21-14)16(20)18-13-9-19-5-3-10(13)4-6-19;;/h1-2,7-8,10,13H,3-6,9,17H2,(H,18,20);2*1H/t13-;;/m0../s1
